US04908476
To a solution of 2-(4-acetylphenoxy)propanoic acid (5.08 g, 24.4 mmol) in acetic acid (20 mL) is added purified peracetic acid (16%, 15.80 g, 33.3 mmol) over 30 minutes. The reaction mixture is stirred under reflux at 55° C. to 60° C. and 60-64 mm Hg for 9 hours. The solution is rotovapped and vacuumed to remove the acetic acid. The product obtained is 5.0 g of 2-(4-acetoxyphenoxy)propanoic acid (yield 91%): m.p. 102° C., 1H NMR (CDCl3, delta 1.63 (d, J=7.0 Hz, 3H), 2.26 (s, 3H), 4.85 (q, J=7.0 Hz, 1H), 7.10 (m, 4H).

reactant | 2-(4-acetylphenoxy)propanoic acid | 24.4 mmol, 5.08 g | C(C)(=O)C1=CC=C(OC(C(=O)O)C)C=C1 | C11H12O4
reactant | peracetic acid | 33.3 mmol, 15.80 g | C(C)(=O)OO | C2H4O3
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 2-(4-acetoxyphenoxy)propanoic acid | 5.0 g, yield 91% | C(C)(=O)OC1=CC=C(OC(C(=O)O)C)C=C1 | C11H12O5
